US08278441B2
2-(Allyloxy)-N-methoxy-N-methylacetamide
Thionyl chloride (1.5 L) is added in one portion to a solution of 2-(allyloxy)acetic acid (2.2 Kg, 18.9 mol) in toluene (3.0 L), and the mixture is heated at 65° C. under a nitrogen atmosphere for 1 h. The mixture is cooled to room temperature and is added to a solution of N,O-dimethylhydroxylamine hydrochloride (2.1 Kg, 21.5 mol) and N-methyl morpholine (6.5 L, 59.2 mol) in dichloromethane (19 L) at 5° C. The reaction mixture is stirred at 25° C. for 16 h. Water is added, and the reaction mixture is extracted with dichloromethane. The combined organic phase is collected and washed with 1 M HCl (6 L), dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel chromatography eluting with ethyl acetate in hexanes to afford the title compound (1.49 Kg, 50%). ES/MS m/e: 160 (M+1).

reactant | Thionyl chloride | 1.5 L | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(allyloxy)acetic acid | 18.9 mol, 2.2 Kg | C(C=C)OCC(=O)O | C5H8O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 21.5 mol, 2.1 Kg | Cl.CNOC
reactant | N-methyl morpholine | 59.2 mol, 6.5 L | CN1CCOCC1 | C5H11NO
solvent | toluene | 3.0 L | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 19 L | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 2-(Allyloxy)-N-methoxy-N-methylacetamide | 1.49 Kg, 50% | C(C=C)OCC(=O)N(C)OC | C7H13NO3
